US06399727B1
Synthesis of dimethylphenyl(tetramethylcyclopentadienyl)silane
30 ml (48 mmol) of n-butyllithium (1.6 M in hexane) were added dropwise at −78° C. to a solution of 5.4 g (44.2 mmol) of tetramethylcyclopentadiene in 90 ml of THF over the course of about 20 minutes. The mixture was then stirred at 25° C. for 24 hours. The solution was then cooled again to −78° C., 8.3 g (48.6 mmol) of chlorodimethylphenylsilane were added dropwise over the course of 15 minutes, and the mixture was stirred at 25° C. for 24 hours. The THF was then removed under reduced pressure, and the residue was taken up in 50 ml of pentane. The insoluble precipitate was filtered off and the pentane was removed under reduced pressure. The yellow liquid residue was distilled under a high vacuum. The product boils at 83 to 85° C. Characterization was carried out by means of 1H-NMR spectroscopy.

reactant | n-butyllithium | 48 mmol, 1.6 M, 30 ml | C(CCC)[Li]
reactant | tetramethylcyclopentadiene | 44.2 mmol, 5.4 g | CC1=C(C(=C(C1)C)C)C | C9H14
reactant | chlorodimethylphenylsilane | 48.6 mmol, 8.3 g | Cl[Si](C1=CC=CC=C1)(C)C | C8H11ClSi
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | dimethylphenyl(tetramethylcyclopentadienyl)silane | C[Si](C1(C(=C(C(=C1)C)C)C)C)(C1=CC=CC=C1)C | C17H24Si
